US07932272B2
(6-amino-5-(4-benzyloxy-benzylcarbamoyl)-pyridin-2-ylamino)-acetic acid
Glycine (935 mg, 12.5 mmol) and 1,8-diazabicyclo[5,4,0]undec-7-ene (1.86 mL, 12.5 mmol) were added to 2-amino-N-(4-benzyloxy-benzyl)-6-chloro-nicotinamide described in Preparation Example A+-18 (454 mg, 1.25 mmol) under nitrogen atmosphere, and the solution was stirred for 6 hours at 130° C. Dimethylsulfoxide (35 mL) was added to the reaction mixture, which was then filtered with polytetrafluoroethylene membrane filter (Whatman Inc), the filtrate was purified by reverse phase high performance liquid chromatography (acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid) was used), and the title compound (287 mg, 0.551 mmol, 44%) was obtained.

reactant | Glycine | 12.5 mmol, 935 mg | NCC(=O)O | C2H5NO2
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 12.5 mmol, 1.86 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-amino-N-(4-benzyloxy-benzyl)-6-chloro-nicotinamide | NC1=C(C(=O)NCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=CC(=N1)Cl | C20H18ClN3O2
solvent | Dimethylsulfoxide | 35 mL | CS(=O)C | C2H6OS
product | (6-amino-5-(4-benzyloxy-benzylcarbamoyl)-pyridin-2-ylamino)-acetic acid | 0.551 mmol, 287 mg, 44% | NC1=C(C=CC(=N1)NCC(=O)O)C(NCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H22N4O4
